US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 51 using (S)-4-amino-6-methylthiochromane-7-carboxylic acid methyl ester (8.12 g), potassium carbonate (5.68 g) and di-tert-butyldicarbonate (10.5 g), the objective (S)-4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester (8.23 g) was obtained as colorless crystals.

reactant | (S)-4-amino-6-methylthiochromane-7-carboxylic acid methyl ester | 8.12 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)N)C | C12H15NO2S
reactant | potassium carbonate | 5.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyldicarbonate | 10.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (S)-4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester | 8.23 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OC(C)(C)C)C | C17H23NO4S
